US07199245B2
2,6-Diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidine-4-one semicarbazone (Table 1, Comp. 103)
2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-4-oxopiperidine prepared according to DE 199 09 767 A1 is dissolved in methanol containing 10% by weight of KOH and stirred for 5 hours at room temperature. Methanol is evaporated, the residue is washed with water and dried in vacuo. To a solution of 6.4 g (0.02 mol) 2,6-diethyl-2,3,6-trimethyl-1-(1-pheyl-ethoxy)-piperidine-4-one in 20 ml methanol are added 3.3 g (0.03 mol) semicarbazide hydrochloride and 1.67 g (0.025 mol) KOH (85%). The mixture is stirred under reflux 5 h and then diluted with 200 ml water. The precipitate is extracted into 100 ml of dichloromethane, the organic layer is washed with water, dryied over MgSO4 and evaporated to give 7.8 g (98.8%) of the title compound as a slightly yellow resin.

reactant | 2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-4-oxopiperidine | C(C)C1(N(C(CC(C1C)=O)(C)CC)OC(C)C1=CC=CC=C1)C | C20H31NO2
reactant | 2,6-diethyl-2,3,6-trimethyl-1-(1-pheyl-ethoxy)-piperidine-4-one | 0.02 mol, 6.4 g | C(C)C1(N(C(CC(C1C)=O)(C)CC)OC(C)C1=CC=CC=C1)C | C20H31NO2
reactant | semicarbazide hydrochloride | 0.03 mol, 3.3 g | Cl.NNC(=O)N
solvent | methanol | CO | CH4O
solvent | KOH | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
solvent | KOH | 0.025 mol, 1.67 g | [OH-].[K+]
product | 2,6-Diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidine-4-one semicarbazone | 7.8 g, 98.8% | C(C)C1(N(C(CC(C1C)=NNC(=O)N)(C)CC)OC(C)C1=CC=CC=C1)C | C21H34N4O2
